US07034018B2
1-[[1-(2-Chloro-ethyl)-1H-pyrrol-2-yl]-(4-fluoro-phenyl)-methyl]-piperidine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-pyrrol-1-yl-chloroethane and 1-(4-fluoro-benzylidene)-piperidinium chloride, which had been prepared in accordance with example 3 from 4-fluorobenzaldehyde and piperidine.

reactant | 2-pyrrol-1-yl-chloroethane | N1(C=CC=C1)CCCl | C6H8ClN
reactant | 1-(4-fluoro-benzylidene)-piperidinium chloride | [Cl-].FC1=CC=C(C=[N+]2CCCCC2)C=C1
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-[[1-(2-Chloro-ethyl)-1H-pyrrol-2-yl]-(4-fluoro-phenyl)-methyl]-piperidine | ClCCN1C(=CC=C1)C(N1CCCCC1)C1=CC=C(C=C1)F | C18H22ClFN2
